US05017619
Thus, for the preparation of the amine starting material in Example 11 hereinafter, tyramine was reacted with (R)-m-chloro-styrene oxide in DMSO while heating to give (R)-m-chloro-[[(p-hydroxyphenethyl)amino]methyl]benzyl alcohol and the latter was etherified by reaction with 2-ethoxyethylmethanesulphonate to give (R)-m-chloro-α-[[[(p-(2 -ethoxyethoxy)phenethyl]amino]methyl]benzyl alcohol, [α]20/D=-20° (c=0.5 in methanol).

reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | (R)-m-chloro-styrene oxide | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
solvent | DMSO | CS(=O)C | C2H6OS
product | (R)-m-chloro-[[(p-hydroxyphenethyl)amino]methyl]benzyl alcohol | ClC=1C=C([C@H](CNCCC2=CC=C(C=C2)O)O)C=CC1 | C16H18ClNO2
